US05026712
5,6-Dihydro-8-(4-ethoxyphenyl)-3-methylimidazo[1,5-a]-pyridine
Combine 150 g (0.66 mol) of 4-chloro-4'-ethoxybutyrophenone with 300 g (3.65 mol) of 2-methylimidazole and heat to 175° C. for 18 hr. Crystallization from ethyl acetate provides the title compound.

reactant | 4-chloro-4'-ethoxybutyrophenone | 0.66 mol, 150 g | ClCCCC(=O)C1=CC=C(C=C1)OCC | C12H15ClO2
reactant | 2-methylimidazole | 3.65 mol, 300 g | CC=1NC=CN1 | C4H6N2
product | 5,6-Dihydro-8-(4-ethoxyphenyl)-3-methylimidazo[1,5-a]-pyridine | C(C)OC1=CC=C(C=C1)C=1C=2N(CCC1)C(=NC2)C | C16H18N2O
